US06933304B2
3,3-dimethyl-4-{3-[3-(5,6,7,8-tetrahydro-1,8-naphthyridin-2-yl)propyl]-1,2,4-oxadiazol-5-yl}butanoic acid
A stirred mixture of (1Z)-N′-hydroxy-4-(5,6,7,8-tetrahydro-1,8-naphthyridin-2-yl)butanimidamide (100 mg, WO 99/30709), 3,3-dimethylglutaric anhydride (80 mg, Aldrich) and 1,4-dioxane (2 mL, Aldrich) was heated to 100° C. for 16 hrs. The resulting mixture was purified by HPLC to provide the title compound as a gum. 1H (CD3OD) δ 1.12 (6H, s); 1.96 (2H, p); 2.14 (2H, p); 2.36 (2H, s); 2.80 (6H, m); 3.05 (2H, s); 3.50 (2H, t); 6.63 (1H, d); 7.57 (1H, d).

reactant | (1Z)-N′-hydroxy-4-(5,6,7,8-tetrahydro-1,8-naphthyridin-2-yl)butanimidamide | 100 mg | O\N=C(\CCCC1=NC=2NCCCC2C=C1)/N | C12H18N4O
reactant | 3,3-dimethylglutaric anhydride | 80 mg | CC1(CC(=O)OC(C1)=O)C | C7H10O3
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 3,3-dimethyl-4-{3-[3-(5,6,7,8-tetrahydro-1,8-naphthyridin-2-yl)propyl]-1,2,4-oxadiazol-5-yl}butanoic acid | CC(CC(=O)O)(CC1=NC(=NO1)CCCC1=NC=2NCCCC2C=C1)C | C19H26N4O3
